US05010088
A mixture of 6-(4-hydroxypiperidino)carbostyril (0.25 g), benzoyl chloride (0.17 g) and dry pyridine (2 mL) was heated for 3 hours at 100° C. The reaction mixture was cooled and water (about 25 mL) and sodium bicarbonate (1 g) were added. The mixture was chilled in ice and stirred. The resulting solid was removed by filtration, washed with water and dried to give crude 6-(4-benzoyloxypiperidino)-2(1H)-quinolinone (0.25 g). Recrystallization twice from ethyl acetate gave 6-(4-benzoyloxypiperidino)-2(1H)-quinolinone (0.18 g); m.p. 212°-215° C.

reactant | 6-(4-hydroxypiperidino)carbostyril | 0.25 g | OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | C14H16N2O2
reactant | benzoyl chloride | 0.17 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | water | about 25 mL | O | H2O
product | 6-(4-benzoyloxypiperidino)-2(1H)-quinolinone | 0.18 g | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | C21H20N2O3
